US07087756B2
6-Benzo[1,3]dioxol-5-yl-3-(2-chloro-phenyl)-5-methyl-5H-isoxazolo[4,5-c]pyridin-4-one:
This compound is obtained using 3-(2-chloro-phenyl)-5-methyl-isoxazole-4-carboxylic acid methylamide and benzo[1,3]dioxole-5-carbaldehyde in 35% as a beige solid. Mass spectrum: m/z (M+H)+: 380.9, 382.9

reactant | 3-(2-chloro-phenyl)-5-methyl-isoxazole-4-carboxylic acid methylamide | CNC(=O)C=1C(=NOC1C)C1=C(C=CC=C1)Cl | C12H11ClN2O2
reactant | benzo[1,3]dioxole-5-carbaldehyde | O1COC2=C1C=CC(=C2)C=O | C8H6O3
product | 6-Benzo[1,3]dioxol-5-yl-3-(2-chloro-phenyl)-5-methyl-5H-isoxazolo[4,5-c]pyridin-4-one | O1COC2=C1C=CC(=C2)C2=CC1=C(C(N2C)=O)C(=NO1)C1=C(C=CC=C1)Cl | C20H13ClN2O4
